US06180622B2
c) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid (stereoisomer A)
Tetrakis(triphenylphosphine)palladium(0) (13.8 mg) is added to a solution of 70 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer A) and 0.077 ml of N-methylaniline in 1.0 ml of dry dichloromethane, and the mixture is stirred in an argon atmosphere at room temperature for 45 min. Distilled water (3 ml) is added thereto, and the mixture is washed three times with 5 ml of ethyl acetate. The water layer is filtered, followed by concentration under reduced pressure and freeze drying to give a colorless flocculent material. The flocculent material is purified by column chromatography (water-methanol) on Cosmosil 40C18-PREP to give 11.5 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 70 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C=1N2C(SC1)=CN=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
reactant | N-methylaniline | 0.077 ml | CNC1=CC=CC=C1 | C7H9N
reactant | water | 3 ml | O | H2O
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 13.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 11.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)C(C=2N3C(SC2)=CN=C3)O)C(=O)O)C1=O | C20H24N4O5S2
